US20010020094A1
Cyanuric chloride (1.84 g) was allowed to react with 1.9 eq of m-xylene and 2.5 eq (3.35 g) of AlCl3 in 25 mL of chlorobenzene at 5° C. for 0.5 h and then at room temperature for 3 h. Analysis by HPLC, after 2.5 h, showed that less than 8% of cyanuric chloride had reacted to form only 2,4-dichloro-6-(2,4-dimethylphenyl)-1,3,5-triazine, no 2-chloro-4,6-bis(2,4-dimethylphenyl)-1,3,5-triazine or 2,4,6-tris(2,4-dimethylphenyl)-1,3,5-triazine were present. The reaction was allowed to continue at room temperature. After 24 hours, HPLC analysis showed about 51% cyanuric chloride conversion and formation of 2,4-dichloro-6-(2,4-dimethylphenyl)-1,3,5-triazine and 2-chloro-4,6-bis(2,4-dimethylphenyl)-1,3,5-triazine in the ratio of 95:5, respectively. No 2,4,6-tris(2,4-dimethylphenyl)-1,3,5-triazine was detected.

reactant | Cyanuric chloride | 1.84 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | m-xylene | 1.9 eq | C1(=CC(=CC=C1)C)C | C8H10
reactant | AlCl3 | 3.35 g, 2.5 eq | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | chlorobenzene | 25 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 2,4-dichloro-6-(2,4-dimethylphenyl)-1,3,5-triazine | ClC1=NC(=NC(=N1)Cl)C1=C(C=C(C=C1)C)C | C11H9Cl2N3
